US04005103
The procedure of Example IX using 39 g of 1-cyclopropyl-3-(3',4'-dichlorophenyl)prop-2-en-1-one, 15.5 ml of nitroethane and 2 g of sodium in 150 ml of methanol gives 41 g of 1-cyclopropyl-3-(3',4'-dichlorophenyl)-4-nitropentanone as an oily residue which is used in the crude state for the remainder of the operations.

reactant | 1-cyclopropyl-3-(3',4'-dichlorophenyl)prop-2-en-1-one | 39 g | C1(CC1)C(C=CC1=CC(=C(C=C1)Cl)Cl)=O | C12H10Cl2O
reactant | nitroethane | 15.5 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium | 2 g | [Na] | Na
reactant | methanol | 150 ml | CO | CH4O
product | 1-cyclopropyl-3-(3',4'-dichlorophenyl)-4-nitropentanone | 41 g | C1(CC1)CC(C(C(C)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO3
